US07649009B2
Step B. tert-butyl (2E)-2-[4-(methoxycarbonyl)benzylidene]hydrazinecarboxylate
To a solution of 4-carbomethoxy benzaldehyde (5.0 g, 36.46 mmol) in dichloroethane (40 mL) was added tert-butyl carbazate (4.03 g, 30.46 mmol) followed by AcOH (1.74 mL, 30.46 mmol). After 1.5 hours, the reaction was concentrated in vacuo. The residue was dissolved in ethyl acetate, washed with saturated NaHCO3, solution, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. This material was used without any further purification in the next step. 1H NMR (CDCl3, 500 MHz): 8.03 (d, J=8.5 Hz, 3H), 7.93 (bs, 1H), 7.8 (d, J=8.2 Hz, 2H), 3.96 (s, 3H), 1.58 (s, 9H). LC-MS=3.1; (M+H−56)=223.1.

reactant | 4-carbomethoxy benzaldehyde | 36.46 mmol, 5.0 g | C(=O)(OC)C1=CC=C(C=O)C=C1 | C9H8O3
reactant | tert-butyl carbazate | 30.46 mmol, 4.03 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | AcOH | 30.46 mmol, 1.74 mL | CC(=O)O | C2H4O2
solvent | dichloroethane | 40 mL | ClC(C)Cl | C2H4Cl2
product | tert-butyl (2E)-2-[4-(methoxycarbonyl)benzylidene]hydrazinecarboxylate | COC(=O)C1=CC=C(\C=N\NC(=O)OC(C)(C)C)C=C1 | C14H18N2O4
